US07781478B2
2-[4-(2-bromoethoxy)-phenyl]-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (40 mg, 0.1 mmol), prepared as in step A above, is combined with morpholine (50 μL, 0.58 mmol) and acetonitrile (1.0 mL). This is heated at 85° C. for 2 h. The reaction mixture is then partitioned between CH2Cl2 and H2O. The organic layer is dried and concentrated. Purification by silica gel chromatography (6/4, acetone/hexanes) yields 1-ethyl-6-methoxy-2-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-1H-indole-3-carbonitrile (39 mg, 96%) as a white solid.

reactant | 2-[4-(2-bromoethoxy)-phenyl]-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 0.1 mmol, 40 mg | BrCCOC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C20H19BrN2O2
reactant | morpholine | 0.58 mmol, 50 μL | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | 1-ethyl-6-methoxy-2-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-1H-indole-3-carbonitrile | 39 mg, 96% | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C1=CC=C(C=C1)OCCN1CCOCC1 | C24H27N3O3
